US06872804B2
In a N2 purged flask there was dissolved Diethyl azodicarboxylate (5.0 g, 28.71 mmol) in dichloromethane (150 mL). A solution of Methyl thioglycolate (2.89 g, 27.27 mmol) in dichloromethane (50 mL) was then added dropwise at room temperature over 20 minutes. After 1.5 hours stirring, a solution of octanethiol (4.8 mL, 27.27 mmol) in dichloromethane (50 mL) was added dropwise over 20 minutes, and the resulting solution was stirred for an additional 12 hours at room temperature. The solvent was then removed under reduced pressure, and the resulting oil was then purified over flash silica with 5% ethyl acetate in hexanes to yield MeOC(O)CH2SSC8H17 as a clear, colorless oil.

reactant | Diethyl azodicarboxylate | 28.71 mmol, 5.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Methyl thioglycolate | 27.27 mmol, 2.89 g | C(CS)(=O)OC | C3H6O2S
reactant | octanethiol | 27.27 mmol, 4.8 mL | C(CCCCCCC)S | C8H18S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | MeOC(O)CH2SSC8H17 | COC(=O)CSSCCCCCCCC | C11H22O2S2
